US07943795B2
F. Trifluoromethanesulfonic acid 7-(1-ethyl-1-hydroxypropyl)naphthalen-2-yl ester
Cool a CH2CL2 (30 mL) solution of 7-(1-ethyl-11-hydroxypropyl)naphthalen-2-ol (0.97 g, 4.2 mmol) and pyridine (1.3 mL, 16.3 mmol) with an ice bath. Treat the cooled solution dropwise with trifluoromethanesulfonic anhydride (1.0 mL, 6.1 mmol). Remove the cooling bath and stir the mixture for 1.5 h at RT. Quench the reaction with ice water. Dilute the reaction mixture with EtOAc and water (100 mL each) and acidify to pH 1 using 0.1N HCl. Dry the organic layer over Na2SO4, filter and concentrate the filtrate. Purify by radial silica gel (2:98 to 10:90 EtOAc:hex) to give the title compound as a colorless oil (1.46 g, 66%). MS (ES) m/e 377 (M-NH4).

reactant | pyridine | 16.3 mmol, 1.3 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 6.1 mmol, 1.0 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | HCl | 0.1N | Cl | ClH
reactant | water | 100 mL | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Trifluoromethanesulfonic acid 7-(1-ethyl-1-hydroxypropyl)naphthalen-2-yl ester | 1.46 g, 66% | C(C)C(CC)(O)C1=CC=C2C=CC(=CC2=C1)OS(=O)(=O)C(F)(F)F | C16H17F3O4S
